US04382939
1,2,3,4-Tetrahydro-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one.
Prepared by the method described for example 26 from 1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (5.14 g, 0.025 moles), triethylamine (3.8 g, 0.027 moles), and 1-chloro-2-propanone (2.5 g, 0.027 moles). Recrystallization from ethanol gave the produce (3.8 g) mp 128°-130° C.

reactant | 1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.025 moles, 5.14 g | C1C2=C(CNC1)C(OC1=C2C=CC=C1)=O | C12H11NO2
reactant | triethylamine | 0.027 moles, 3.8 g | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-propanone | 0.027 moles, 2.5 g | ClCC(C)=O | C3H5ClO
product | 1,2,3,4-Tetrahydro-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | O=C(CN1CC2=C(CC1)C1=C(OC2=O)C=CC=C1)C | C15H15NO3
